US07691863B2
b) 6-Bromo-5-chloro-pyrazine-2-carboxylic acid methyl ester
A mixture of 6-bromo-5-hydroxy-pyrazine-2-carboxylic acid methyl ester and 9.75 mL (10.7 mmol) POCl3 was refluxed for 3 h and subsequently quenched with 200 g ice. The mixture was extracted with DCM, the combined organic phases were dried with MgSO4 and evaporated to dryness the residue was purified by column chromatography on silica eluting with a gradient formed from ethyl acetate and heptane. The product fractions were combined and evaporated to dryness to yield 0.95 g (29%) of the title compound as light yellow solid. 300-MHz-1H-NMR (DMSO): δ=9.00 (s, 1H, 3-H), d=4.04 (s, 3H, OMe).

reactant | 6-bromo-5-hydroxy-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=C(N=C1)O)Br | C6H5BrN2O3
reactant | POCl3 | 10.7 mmol, 9.75 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 6-Bromo-5-chloro-pyrazine-2-carboxylic acid methyl ester | 0.95 g, 29% | COC(=O)C1=NC(=C(N=C1)Cl)Br | C6H4BrClN2O2
